US05420164
To a solution of 1.6 g of 4-tert-butylcyclohexylamine in 15 ml of dichloromethane was added a solution of 2.2 g of 2,6-diisopropylphenylisocyanate in dichloromethane dropwise in the presence of pyridine at 0° C. Thereafter the mixture was stirred for 1.5 hours at room temperature and concentrated. The residue was partitioned between isopropyl ether and water, and the organic layer was successively washed with 0.5N hydrochloric acid, water and sodium sulfate solution. The organic layer was dried over magnesium sulfate and then distilled away. The resulting residue was crystallized from ethyl acetate to give 2.2 g of N-(2,6-diisopropylphenyl)-N'-(4-tert-butylcyclohexyl)urea, melting at 270° C.

reactant | 4-tert-butylcyclohexylamine | 1.6 g | C(C)(C)(C)C1CCC(CC1)N | C10H21N
reactant | 2,6-diisopropylphenylisocyanate | 2.2 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-(2,6-diisopropylphenyl)-N'-(4-tert-butylcyclohexyl)urea | 2.2 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC1CCC(CC1)C(C)(C)C | C23H38N2O
